US09422331B2
To a rt solution of tert-butyl(S)-1-((3S,4S)-1-((5-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (33.8 mg, 45.3 μmol) in MeOH (45.3 μl) was added 2 M HCl in Et2O (181 μl). The reaction was stirred at rt for 3 h, then concentrated, taken up in H2O, and lyophilized to provide (S)-N-((3S,4S)-1-((5-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (29.0 mg, 94%) as a white solid. MS m/z 645/647 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((5-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 45.3 μmol, 33.8 mg | BrC1=C2C=CC(=C(C2=CC=C1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2)OC | C34H41BrN4O8S
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 45.3 μl | CO | CH4O
solvent | Et2O | 181 μl | CCOCC | C4H10O
product | (S)-N-((3S,4S)-1-((5-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 29.0 mg, 94% | Cl.BrC1=C2C=CC(=C(C2=CC=C1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2)OC | InChI=1S/C29H33BrN4O6S.ClH/c1-17(31-3)28(36)32-27-18(2)34(26(35)16-41(5,38)39)24-12-7-6-11-23(24)33(29(27)37)15-21-19-9-8-10-22(30)20(19)13-14-25(21)40-4;/h6-14,17-18,27,31H,15-16H2,1-5H3,(H,32,36);1H/t17-,18-,27-;/m0./s1
